US07923456B2
Step 3, Metohd A: 2-Chloro-6-formylaminomethylnicotinic acid methyl ester
To a solution of 2-chloro-6-diformylaminomethylnicotinic acid methyl ester (53.0 g, 0.21 mol) in methanol (300 mL) was added water (3.72 mL, 0.21 mol) and formic acid (15.6 mL, 0.42 mol) before the reaction mixture was heated at reflux for 16 hours. The reaction mixture was concentrated in vacuo and the residue dissolved in ethyl acetate (200 mL). The resultant solution was washed with water (200 mL) and the aqueous layer extracted with ethyl acetate (2×100 mL). The combined organic extracts were washed with brine (100 mL), dried (MgSO4) and concentrated in vacuo to yield the title compound as an orange oil which solidified on standing (42.6 g, 90%). 1H NMR (CDCl3, 400 MHz) 8.34 (1H, s), 8.17 (1H, d, J=8.0 Hz), 7.31 (1H, d, J=7.8 Hz), 6.63 (1H, br s), 4.63 (2H, d, J=5.6 Hz), 3.96 (3H, s).

reactant | 2-chloro-6-diformylaminomethylnicotinic acid methyl ester | 0.21 mol, 53.0 g | COC(C1=C(N=C(C=C1)CN(C=O)C=O)Cl)=O | C10H9ClN2O4
reactant | water | 0.21 mol, 3.72 mL | O | H2O
reactant | formic acid | 0.42 mol, 15.6 mL | C(=O)O | CH2O2
solvent | methanol | 300 mL | CO | CH4O
product | 2-Chloro-6-formylaminomethylnicotinic acid methyl ester | COC(C1=C(N=C(C=C1)CNC=O)Cl)=O | C9H9ClN2O3
